US07754737B2
To a mixture solution of tert-butyl (S)-1-(4-(t-butyldimethylsilyloxy)cyclohexyl)-3-(methylamino)propan-2-ylcarbamate (112 g, 209 mmol) and Et3N (52.8 g, 522 mmol) in CH2Cl2 (1200 mL) was added dropwise a solution of benzyl chloroformate (39 g, 230 mmol) in CH2Cl2 (40 mL) at −20° C. After stirring for an additional 2 h, water (400 mL) was added and the mixture was extracted with CH2Cl2 (2×200 mL). The organic layers were washed with brine, dried over MgSO4, and evaporated. The residue was purified by silica chromatography to afford crude tert-butyl (S)-1-(4-(t-butyldimethylsilyloxy)cyclohexyl)-3-(N-(benzyloxycarbonyl)-N-methylamino)propan-2-ylcarbamate (90 g) as an oil which was a mixture of two isomers. The isomers were separated by preparative HPLC. 1H NMR (CDCl3, 400 MHz): δ=0.08 (s, 6H), 0.89 (s, 9H), 1.28 (m, 4H), 1.40 (d, 9H), 1.59 (m, 4H), 2.96 (d, 3H), 3.05 (d, 1H), 3.15 (d, 1H), 3.45 (t, 3H), 3.90 (s, 1H), 5.12 (d, 2H), 7.33 (m, 5H).

reactant | tert-butyl (S)-1-(4-(t-butyldimethylsilyloxy)cyclohexyl)-3-(methylamino)propan-2-ylcarbamate | 209 mmol, 112 g | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)C[C@@H](CNC)NC(OC(C)(C)C)=O | C21H44N2O3Si
reactant | Et3N | 522 mmol, 52.8 g | CCN(CC)CC | C6H15N
reactant | benzyl chloroformate | 230 mmol, 39 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | water | 400 mL | O | H2O
solvent | CH2Cl2 | 1200 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (S)-1-(4-(t-butyldimethylsilyloxy)cyclohexyl)-3-(N-(benzyloxycarbonyl)-N-methylamino)propan-2-ylcarbamate | 90 g | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)C[C@@H](CN(C)C(=O)OCC1=CC=CC=C1)NC(OC(C)(C)C)=O | C29H50N2O5Si
